US07323475B2
c) [1,3-Dioxo-5-(pyridin-4-ylsulfanyl)-1,3-dihydro-isoindol-2-yl]-acetic acid butyl ester
A solid mixture of 4-(pyridin-4-ylsulfanyl)-phthalic acid (11.40 g) and glycine n-butyl ester hydrochloride salt (6.95 g) was heated in a oil bath (250° C.) with efficient stirring for 20 min. until the water bubble evaporation ceased. After cooling, it was partitioned between ethyl acetate (300 ml) and saturated sodium bicarbonate aqueous solution (150 ml). Two layers were separated and the aqueous layer was extracted with ethyl acetate (300 ml). Combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the title compound 10.70 g. MS-(+)-ion: M+1=371.2.

reactant | 4-(pyridin-4-ylsulfanyl)-phthalic acid | 11.40 g | N1=CC=C(C=C1)SC=1C=C(C(C(=O)O)=CC1)C(=O)O | C13H9NO4S
reactant | glycine n-butyl ester hydrochloride salt | 6.95 g | Cl.C(CCC)OC(CN)=O
solvent | water | O | H2O
product | [1,3-Dioxo-5-(pyridin-4-ylsulfanyl)-1,3-dihydro-isoindol-2-yl]-acetic acid butyl ester | 10.70 g | C(CCC)OC(CN1C(C2=CC=C(C=C2C1=O)SC1=CC=NC=C1)=O)=O | C19H18N2O4S
